US04678501
2-(4-METHOXY-2-PYRIDINYL)-5-(1-METHYLETHYL)-1,3-CYCLOHEXANEDIONE
The title compound was prepared from ethyl 6-(4-methoxy-2-pyridinyl)-3-(1-methylethyl)-5-oxohexanoate and ethanolic sodium ethoxide, refluxing for 2 hours according to the procedure of Example 2. The product separated from the aqueous phase as a yellow solid upon adjusting the pH to about 6 and was recovered by extraction with dichloromethane. Evaporation of the dried extract and recrystallization from acetonitrile gave the product as a white solid, mp 152°-154.5° C. The confirmatory elemental analysis is shown in Table II.

reactant | ethyl 6-(4-methoxy-2-pyridinyl)-3-(1-methylethyl)-5-oxohexanoate | COC1=CC(=NC=C1)CC(CC(CC(=O)OCC)C(C)C)=O | C17H25NO4
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 2-(4-METHOXY-2-PYRIDINYL)-5-(1-METHYLETHYL)-1,3-CYCLOHEXANEDIONE | COC1=CC(=NC=C1)C1C(CC(CC1=O)C(C)C)=O | C15H19NO3
